US07381719B2
4-{3-Chloro-5-[(2-thiophen-2-yl-ethylamino)-methyl]-pyridin-2-yloxy}-benzamide
Using a method similar to Example 460, using 4-(3-chloro-5-formyl-pyridin-2-yloxy)-benzamide (114 mg, 0.412 mmol) and 2-thiophen-2-yl-ethylamine (0.048 mL, 0.412 mmol) gives the title compound (57 mg, 36%). Mass spectrum (ion spray): m/z=387.9 (M+1); 1H NMR (DMSO-d6): 8.37 (bs, 1H), 8.21 (d, J=1.9 Hz, 1H), 7.99 (bs, 1H), 7.93 (d, J=8.7 Hz, 2H), 7.39 (dd, J=1.2 Hz, 5.0 Hz, 1H), 7.36 (bs, 1H), 7.21 (d, J=8.9 Hz, 2H), 6.99-6.94 (m, 2H), 4.16 (s, 2H), 3.26-3.11 (m, 4H).

reactant | 4-(3-chloro-5-formyl-pyridin-2-yloxy)-benzamide | 0.412 mmol, 114 mg | ClC=1C(=NC=C(C1)C=O)OC1=CC=C(C(=O)N)C=C1 | C13H9ClN2O3
reactant | 2-thiophen-2-yl-ethylamine | 0.412 mmol, 0.048 mL | S1C(=CC=C1)CCN | C6H9NS
product | 4-{3-Chloro-5-[(2-thiophen-2-yl-ethylamino)-methyl]-pyridin-2-yloxy}-benzamide | 57 mg, 36% | ClC=1C(=NC=C(C1)CNCCC=1SC=CC1)OC1=CC=C(C(=O)N)C=C1 | C19H18ClN3O2S
